### PR TITLE
[Merged by Bors] - feat(FieldTheory/Finite): add variant theorems for `expand_card`

### PR DESCRIPTION
**Pull request by WenrongZou**
Add `MvPolynomial, MvPowerSeries, PowerSeries` version of `FiniteField.expand_card`, which is only for polynomial. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by WenrongZou** [comment]
@riccardobrasca I think this is easy to review (maybe less than 5 minutes). Could you please have a quick review for this PR. Thanks!

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 1]
```diff
@@ -480,14 +480,17 @@ theorem frobenius_pow {p : ℕ} [Fact p.Prime] [CharP K p] {n : ℕ} (hcard : q
 
 open Polynomial
 
-theorem expand_card (f : K[X]) : expand K q f = f ^ q := by
+theorem Polynomial.expand_card (f : K[X]) : expand K q f = f ^ q := by
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Basic.lean:483]:
```suggestion
theorem _root_.Polynomial.expand_card (f : K[X]) : expand K q f = f ^ q := by
```
Maybe?

File: Mathlib/RingTheory/MvPolynomial/Expand.lean [hunk 2]
```diff
@@ -8,6 +8,7 @@ module
 public import Mathlib.Algebra.MvPolynomial.Expand
 public import Mathlib.RingTheory.MvPolynomial.Basic
 public import Mathlib.Algebra.CharP.Frobenius
+public import Mathlib.FieldTheory.Finite.Basic
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Expand.lean:11]: Why is this needed?

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 1 above)
Comment (WenrongZou) [reply Mathlib/FieldTheory/Finite/Basic.lean:483]: Should it be under the namespace `FiniteField` to emphasize the `K` is finite.

File: Mathlib/RingTheory/MvPolynomial/Expand.lean (hunk 2 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/MvPolynomial/Expand.lean:11]: Ah, I forgot to add the `MvPolynomial` version. Thanks!

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/FieldTheory/Finite/Basic.lean:483]: OK

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

**Comment by WenrongZou** [comment]
bor r+

**Comment by WenrongZou** [comment]
Thanks! 
bors r+
